US05925636
7-Methoxy-2-[(pyridin-4-yl)carbonyl]benzofuran-4-carboxylic acid
2-[(Pyridin-4-yl)carbonyl]-4-bromo-7-methoxybenzofuran (3.3 g), triphenylphosphine (1 g), bis(triphenylphosphine)palladium (II) chloride (0.47 g), triethylamine (14 ml), tetrahydrofuran (150 ml) and H2O (57 ml) were combined in a Parr pressure reactor. The vessel was purged with carbon monoxide, charge to 180 psi with carbon monoxide and then heated to 80° C. with stirring for 3 days. On cooling and release of pressure the tetrahydrofuran was removed in vacuo. The remaining aqueous mixture was basified to pH14 with 1N sodium hydroxide solution (250 ml) and washed with ethyl acetate (200 ml). The aqueous layer was then acidified to pH5 with acidic acid under ice bath cooling. The resulting precipitate was collected by filtration and dried to give a beige solid (2.97 g). M.S. M+H observed

reactant | 2-[(Pyridin-4-yl)carbonyl]-4-bromo-7-methoxybenzofuran | 3.3 g | N1=CC=C(C=C1)C(=O)C=1OC2=C(C1)C(=CC=C2OC)Br | C15H10BrNO3
reactant | triphenylphosphine | 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | H2O | 57 ml | O | H2O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.47 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 7-Methoxy-2-[(pyridin-4-yl)carbonyl]benzofuran-4-carboxylic acid | 2.97 g | COC=1C=CC(=C2C=C(OC21)C(=O)C2=CC=NC=C2)C(=O)O | C16H11NO5
